US07618975B2
(2-Chloro-quinazolin-4-yl)-(3-methoxy-phenyl)-methyl-amine
The title compound was prepared from (2-chloro-quinazolin-4-yl)-(3-methoxy-phenyl)-amine and methyl iodide by a procedure similar to example 36 (60% yield). 1H NMR (CDCl3): 7.74-7.76 (m, 1H), 7.57 (ddd, J=8.4, 6.0 and 1.8 Hz, 1H), 7.32 (t, J=7.8 Hz, 1H), 6.98-7.03 (m, 2H), 6.89 (dd, J=8.1 and 2.4 Hz, 1H), 6.75-6.81 (m, 2H), 3.65 (s, 3H), 3.37 (s, 3H).

reactant | (2-chloro-quinazolin-4-yl)-(3-methoxy-phenyl)-amine | ClC1=NC2=CC=CC=C2C(=N1)NC1=CC(=CC=C1)OC | C15H12ClN3O
reactant | methyl iodide | CI | CH3I
product | (2-Chloro-quinazolin-4-yl)-(3-methoxy-phenyl)-methyl-amine | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC(=CC=C1)OC | C16H14ClN3O
